US08633313B2
2-Ethyl-3-phenyl-1,5-naphthyridine
2-Chloro-3-phenyl-1,5-naphthyridine was made according to a known procedure (WO 2005/100356). A mixture of 2-chloro-3-phenyl-1,5-naphthyridine (200 mg, 0.85 mmol), diethylzinc (0.87 mL, 1 M in hexane, 1.02 eq), K2CO3 (354 mg, 3.0 eq) and PdCl2(dppf)2 DCM complex (62.5 mg, 0.1 eq) in THF (5 mL) was purged with N2 for 5 min before heating to reflux. After 6 h, the reaction was quenched with NH4Cl and extracted with EtOAc and the residue was purified by silica gel column chromatography using hexane/DCM (2/3) as eluent to give a yellow solid. LC-MS (ESI) m/z 235 [M+H]+.

reactant | 2-Chloro-3-phenyl-1,5-naphthyridine | ClC1=NC2=CC=CN=C2C=C1C1=CC=CC=C1 | C14H9ClN2
reactant | 2-chloro-3-phenyl-1,5-naphthyridine | 0.85 mmol, 200 mg | ClC1=NC2=CC=CN=C2C=C1C1=CC=CC=C1 | C14H9ClN2
reactant | diethylzinc | 1 M, 0.87 mL, 1.02 eq | C(C)[Zn]CC
reactant | K2CO3 | 354 mg, 3.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-3-phenyl-1,5-naphthyridine | C(C)C1=NC2=CC=CN=C2C=C1C1=CC=CC=C1 | C16H14N2
